* Z:\home\becario\repos\C2\ganancia_de_lazo_B.asc
Q1 N004 Vref N008 0 TR1
Q2 N008 N010 N014 0 BC547B
Q3 N010 N010 N013 0 BC547B
R1 Vref N010 100
R2 Vreg N003 0.1k
R3 Vreg N002 0.1k
Q4 N006 N004 N003 0 BC557B
Q5 N004 N004 N002 0 BC557B
Q6 N006 N007 N008 0 TR1
R4 N013 0 10
R5 N014 0 10
R6 N001 Vf 3.3k
R7 Vf N009 2.2k
R8 Vf N009 2.4k
M1 N009 N011 0 0 BSZ0901NSI
R9 N012 N011 1k
V1 N012 0 0
R10 N009 N015 1.1k
R11 N015 0 20
Q7 N005 N006 N001 0 2N2222
Q8 N001 N005 Vreg 0 tip42C
R12 N001 0 100
L1 Vf N007 10Meg
C1 N007 P001 1Meg
V2 P001 0 0 AC 1
V3 Vreg 0 {VINDC}
V4 Vref 0 1.2
V5 5v 0 5
.model NPN NPN
.model PNP PNP
.lib C:\users\becario\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\becario\AppData\Local\LTspice\lib\cmp\standard.mos
.include librerias/bd140.lib
.inc opamp.sub
.lib librerias/LM324.ti.lib
* LIBRERIAS
.include librerias/complex_discretes.lib
.ac lin 1000 10 10Meg
.param VINDC 6.25
.backanno
.end
