* C:\Users\leone\Documents\repos\C2\simulaciones\checkpoint4\Ejemplo de modulador triangular en LTSPICE.asc
R5 N001 Va 5.6k
R2 N005 0 100k
V1 VCC 0 12
R3 Va N003 390k
R4 Vb N003 100k
V2 Vr 0 6.2
C1 Vb N001 470p
XU1 N002 N001 VCC 0 Vb ADTL082
XU4 N005 N002 VCC 0 N002 ADTL082
V3 N005 0 6
XU2 N003 N002 VCC 0 Va LM393A
R1 VCC Va 1k
XU5 Vr Vb VCC 0 N004 LM393A
R6 VCC N004 10k
.tran 0 100u 20u startup
.model IRF9540 PMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0.2 Vmax=0 Xj=0
+ Tox=100n Uo=300 Phi=.6 Rs=64.15m Kp=10.18u W=1.5 L=2u
+ Vto=-3.646 Rd=62.45m Rds=444.4K Cbd=2.029n Pb=.8 Mj=.5 Fc=.5
+ Cgso=1.033n Cgdo=469.4p Rg=.3371 Is=54.08E-18 N=2 Tt=140n)
.model 1N4002 D (Is=14.11n N=1.984 Rs=33.89E-3 Ikf=94.81 Xti=3 Eg=1.110 Cjo=51.17E-12)
*//////////////////////////////////////////////////////////
*LM324 Low Power Quad OPERATIONAL AMPLIFIER MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM324    1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            1mV
*Wide supply range =        +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/4 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS
*$
***********************
* LM393A VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 14:17
* REV (N/A)
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OPEN COLLECTOR OUTPUT
*                | | | | |
.SUBCKT LM393A   1 2 3 4 5
*
F1    9  3 V1 1
IEE   3  7 DC 100.0E-6
VI1  21  1 DC .75
VI2  22  2 DC .75
Q1    9 21  7 QIN
Q2    8 22  7 QIN
Q3    9  8  4 QMO
Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
E1   10  4  9  4  1
V1   10 11 DC 0
Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
DP    4  3 DX
RP 3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS
* LM311
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by: Texas Instruments Inc.
* Part: LM311
* Date: 08/16/2021
* Model Type:  TRANSIENT
* Simulator: PSpice
* Simulator Version: 17.4
* Datasheet: SLCS007K - SEPTEMBER 1973 - REVISED MARCH 2017
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*         2.0 : Improving Model Specifications
*
*****************************************************************************
* Notes:
* The following parameters are modeled:
* Iq, tpd, Ibias, Vcm, Vs, tr, tf, Vhys
* If the input or supply rail goes beyond the abs max limits, the output will float at mid supply
* If one or both inputs go beyond the commmon mode limit, the output will float at mid supply
* When the current sourced from STROB is >2mA, the output is high
* V_VOS can be edited to model the BAL pin (currently set to typical 2mV offset)
* Modeled based off of typical EC table specs
*****************************************************************************
* source LM311
.SUBCKT LM311 IN+ IN- VCC+ VCC- STROB COL_OUT EMIT_OUT
X_U4 CMP N840186 Prop_Delay
X_U2 IN-BUFF IN+BUFF INRANGE V+_BUFFER V-_BUFFER INPUTRANGE
X_U5 COL_OUT EMIT_OUT N21237 INRANGE 0 STROB V+_BUFFER V-_BUFFER VCC+ N884250
+  Output_Stage
X_U6 VCC+ V+_BUFFER VCC- V-_BUFFER Supply_Buffer
X_U3         N785573 IN-BUFF CMP V+_BUFFER V-_BUFFER 0 HPA_COMPHYS
I_IS         N843683 VCC- DC 5.1m
X_U7 N21237 0 V+_BUFFER V-_BUFFER Supply_Enable
X_U1 IN+ IN+BUFF IN- IN-BUFF Input_Buffer
I_IBP         IN+ VCC- DC 100n
I_IBN         IN- VCC- DC 100n
V_VOS         N785573 IN+BUFF 2mV
R_RIS         N843683 VCC+  1u TC=0,0
C_CINPL         VCC- IN+  0.5p  TC=0,0
C_CINNL         VCC- IN-  0.5p  TC=0,0
C_CINPH         IN+ VCC+  0.5p  TC=0,0
C_CINNH         IN- VCC+  0.5p  TC=0,0
R_RS         N856907 CMP  50 TC=0,0
R_RT         0 N856913  50 TC=0,0
T_TPD         N856907 0 N856913 0 Z0=50 TD=125n
X_S1    CMP 0 N857434 N840186 Top_Level_S1
X_S2    CMP 0 N857434 N856913 Top_Level_S2
E_E1         N884250 V-_BUFFER N857434 V-_BUFFER 2
.ENDS
*$
.SUBCKT Input_Buffer IN+ IN+_BUFF IN- IN-_BUFF
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1
.ENDS
*$
.SUBCKT Supply_Enable EN POR V+_BUFFER V-_BUFFER
X_U5         N16973 N20377 N16955 1V 0 VCC_Range
X_U15         N20310 N16973 POR 1V 0 VCC_Range
X_U13         V+_BUFFER V-_BUFFER N16973 1V 0 Difference
V_VS_MIN_SET         N20310 0 3.49
V_VS_MAX_SET         N20377 0 30.01
V_VLOGIC         1V 0 1
V_VS_MIN_SET1         N777117 0 3.49
X_U16         N777117 N16973 N777171 1V 0 VCC_Range
X_U17         N16955 N777171 EN 1V 0 ORGATE
.ENDS
*$
.SUBCKT Supply_Buffer V+ V+_BUFFER V- V-_BUFFER
X_U1         V+ V- V+_BUFFER V-_BUFFER SUPPLY_BUFFER1
.ENDS
*$
.SUBCKT Output_Stage COL_OUT EMIT_OUT EN IN_RANGE POR STROB V+_BUFFER V-_BUFFER
+  VCC+ VIN
X_SMID    CONTROL_MID 0 N778484 MID Output_Stage_SMID
X_U3         VIN DS_OUT V+_BUFFER V-_BUFFER VCC+ VSS_NEW DIGLEVSHIFT
X_U7         MID V+_BUFFER V-_BUFFER MID_SUPPLY
V_VLOGIC         1V 0 1
V_V1         VCC+ VSS_NEW 1
X_SHIZ    CONTROL_HIZ 0 N778484 N778496 Output_Stage_SHIZ
X_U8          POR IN_RANGE EN EN CONTROL_HIZ 1V 0 4ORGATE
X_U9         CONTROL_HIZ N789513 1V 0 INVERTER
X_U10         N789513 POR CONTROL_MID 1V 0 ORGATE
L_L1         N778484 COL_OUT  1n
C_COUTH         COL_OUT VCC+  0.045p  TC=0,0
C_COUTL         EMIT_OUT COL_OUT  0.045p  TC=0,0
X_SVOL    CTRL_OUT VSS_NEW EMIT_OUT N850209 Output_Stage_SVOL
R_ROUTL         N850209 N778496  150 TC=0,0
X_H1    V+_BUFFER N857381 N864891 VSS_NEW Output_Stage_H1
X_U11         N864896 DS_OUT CTRL_OUT VCC+ VSS_NEW ORGATE
X_U1         N863109 STROB N864245 V+_BUFFER V-_BUFFER VINRANGE_393
V_VCMPS         N863109 V+_BUFFER 0.01
X_U12         STROB N864069 N864233 V+_BUFFER V-_BUFFER VINRANGE_393
V_VCMPS1         N864069 V-_BUFFER -0.01
X_U13         N864245 N864233 N864257 VCC+ VSS_NEW ORGATE
X_U14         N864257 N864882 VCC+ VSS_NEW INVERTER
X_U15         N864891 N864882 N864896 VCC+ VSS_NEW ANDGATE
R_RS1         N857381 STROB  500 TC=0,0
.ENDS
*$
.SUBCKT INPUTRANGE INN INP INRANGE V+_BUFFER V-_BUFFER
V_VCMNP         N20415 V-_BUFFER 0.49
V_VCMPN         N32047 V+_BUFFER -1.49
X_U1         N20155 INP N20826 V+_BUFFER V-_BUFFER VINRANGE_393
V_VCMPP         N20155 V+_BUFFER -1.49
V_VCMNN         N20539 V-_BUFFER 0.49
X_U21         N32047 INN N20833 V+_BUFFER V-_BUFFER VINRANGE_393
X_U22         INP N20415 N20840 V+_BUFFER V-_BUFFER VINRANGE_393
X_U23         INN N20539 N20531 V+_BUFFER V-_BUFFER VINRANGE_393
X_U24         N20826 N20833 N20840 N20531 INRANGE V+_BUFFER V-_BUFFER 4ORGATE
.ENDS
*$
.SUBCKT Prop_Delay VIN VOUT
T_TPD         N03175 0 VOUT 0 Z0=50 TD=115n
R_RT         0 VOUT  50 TC=0,0
R_RS         N03175 VIN  50 TC=0,0
.ENDS
*$
.subckt Top_Level_S1 1 2 3 4
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends Top_Level_S1
*$
.subckt Top_Level_S2 1 2 3 4
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=1 Von=0
.ends Top_Level_S2
*$
.subckt Output_Stage_SMID 1 2 3 4
S_SMID         3 4 1 2 _SMID
RS_SMID         1 2 1G
.MODEL         _SMID VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SMID
*$
.subckt Output_Stage_SHIZ 1 2 3 4
S_SHIZ         3 4 1 2 _SHIZ
RS_SHIZ         1 2 1G
.MODEL         _SHIZ VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SHIZ
*$
.subckt Output_Stage_SVOL 1 2 3 4
S_SVOL         3 4 1 2 _SVOL
RS_SVOL         1 2 1G
.MODEL         _SVOL VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SVOL
*$
.subckt Output_Stage_H1 1 2 3 4
H_H1         3 4 VH_H1 250
VH_H1         1 2 0V
.ends Output_Stage_H1
*$
.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }
*
R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT ENABLE_LOGIC 1 2 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS
*$
.SUBCKT ENABLE_TLV7021 1 2 3 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(3) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT INNNEWPOR 1 2 3 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) < V(VMID) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT INPNEWPOR 1 2 3 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT2 0 VALUE = { IF( ( V(1) < V(VMID) ), V(VDD), V(VSS) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VIN_INV 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT NOR_GATE 1 2 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 OUT 2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT ORGATE1701 1 2 3 4 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(3), V(4) ) }
.ENDS
*$
.SUBCKT PORCHECK 1 2 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ( V(2) < V(1) ), V(VSS), V(VDD) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS
*$
.SUBCKT Difference 1 2 OUT VDD VSS
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range 1 2 OUT VDD VSS
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393 1 2 OUT VDD VSS
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.subckt SHUTDOWNCURRENT SHUTDOWN 2 3 OUT VDD VSS
EOUT OUT2 0 VALUE = {IF ((V(SHUTDOWN) > (V(VSS) + 0.4)), V(2), V(3))}
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.subckt SHUTDOWNOUTPUT DISABLE ENABLE SHUTDOWN  VSS OUT
EOUT OUT 0 VALUE = {IF ((V(SHUTDOWN) <= (V(VSS) + 0.4)), V(DISABLE), V(ENABLE))}
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT NORGATE 1 2 OUT VDD VSS
EOUT OUT2 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.MODEL NPN1 NPN LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n
*$
.MODEL PNP1 PNP LEVEL=1 IS=1E-16 RB=850 RC=1 TF=5n
*$
.SUBCKT LE_HYST LEHYST V- V-_BUF V+_BUF LATCH_OUT HYST_OUT
V_VLATCH         N00729 V- 1.25
R_RPU         N00729 LEHYST  40k TC=0,0
E_EIN         VLE V-_BUF LEHYST V- 1
R_R1         V-_BUF LATCH_OUT  1k TC=0,0
R_R2         V-_BUF VLE  1k TC=0,0
R_R3         V-_BUF HYST_OUT  1k TC=0,0
E_ELATCH   LATCH_OUT V-_BUF VALUE = { IF( V(VLE)<= 0.4, 0, 5 ) }
*E_EHYST     HYST_OUT V-_BUF VALUE = { IF( V(VLE)<= 1.25,V(VLE),0 ) }
E_EHYST     HYST_OUT V-_BUF TABLE {V(VLE)} = (0.4,0)
+(0.5,0.0636)
+(0.55,0.0636)
+(0.6,0.0636)
+(0.65,0.0636)
+(0.7,0.0635)
+(0.71,0.0636)
+(0.72,0.0635)
+(0.73,0.0636)
+(0.74,0.0634)
+(0.75,0.0635)
+(0.76,0.0638)
+(0.77,0.0637)
+(0.78,0.0637)
+(0.79,0.0637)
+(0.8,0.0636)
+(0.81,0.0636)
+(0.82,0.0636)
+(0.83,0.0636)
+(0.84,0.0425)
+(0.85,0.0411)
+(0.86,0.0398)
+(0.87,0.0386)
+(0.88,0.0371)
+(0.89,0.0359)
+(0.9,0.0347)
+(0.91,0.0334)
+(0.92,0.032)
+(0.93,0.0309)
+(0.94,0.0296)
+(1,0.0223)
+(1.05,0.0164)
+(1.1,0.0108)
+(1.15,0.0056)
+(1.2,0.0007)
+(1.25,0)
.ENDS
*$
.SUBCKT IS_SET VCC VEE DISABLE VIEN VIDIS PBAD
GIS VCC1 VEE VALUE = { IF ( (V(PBAD) > 2.5V) , 1u , IF ( V(DISABLE) > 2.5, V(VIEN), V(VIDIS) ) ) }
RIS VCC1 VCC 1
*RIS2 VCC VEE 100000000
.ENDS
*$
.SUBCKT 4ORGATE 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS
*$
.lib ADI.lib
.backanno
.end
