* Z:\home\becario\repos\C2\gancia_a.asc
Q1 N004 vi1 N008 0 TR1
Q2 N008 N013 N017 0 BC547B
Q3 N013 N013 N016 0 BC547B
R1 Vref N013 100
R2 Vreg N003 0.1k
R3 Vreg N002 0.1k
Q4 N006 N004 N003 0 BC557B
Q5 N004 N004 N002 0 BC557B
Q6 N006 vi2 N008 0 TR1
R4 N016 0 10
R5 N017 0 10
R6 N001 Vf 3.3k
R7 Vf N011 2.2k
R8 Vf N011 2.4k
M1 N011 N014 0 0 BSZ0901NSI
R9 N015 N014 1k
V1 N015 0 6
R10 N011 N018 1.1k
R11 N018 0 20
Q7 N005 N006 N001 0 2N2222
Q8 N001 N005 Vreg 0 tip42C
R12 N001 0 100
V3 Vreg 0 {VINDC}
V4 Vref 0 1.2
V5 5v 0 5
R13 vi2 N010 2.2k
R14 vi2 N010 2.4k
R15 N010 N012 1.1k
R16 N012 N010 20
R17 vi2 N010 3.3k
V7 N009 0 1.2 AC 1
E1 vi1 N009 N007 0 0.5
E2 vi2 N009 N007 0 -0.5
V2 N007 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\users\becario\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\becario\AppData\Local\LTspice\lib\cmp\standard.mos
.include librerias/bd140.lib
.inc opamp.sub
.lib librerias/LM324.ti.lib
* LIBRERIAS
.include librerias/complex_discretes.lib
.ac lin 1000 10 10Meg
.param VINDC 6.25
.backanno
.end
