.MODEL TR1 NPN
+     IS = 1.822E-14 
+     NF = 0.9932 
+     ISE = 2.894E-16 
+     NE = 1.4 
+     BF = 324.4 
+     IKF = 0.109 
+     VAF = 82 
+     NR = 0.9931 
+     ISC = 9.982E-12 
+     NC = 1.763 
+     BR = 8.29 
+     IKR = 0.09 
+     VAR = 17.9 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.649 
+     RC = 0.7014 
+     CJE = 1.244E-11 
+     VJE = 0.7579 
+     MJE = 0.3656 
+     TF = 4.908E-10 
+     XTF = 9.51 
+     VTF = 2.927 
+     ITF = 0.3131 
+     PTF = 0 
+     CJC = 3.347E-12 
+     VJC = 0.5463 
+     MJC = 0.391 
+     XCJC = 0.6193 
+     TR = 9E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     XTB = 0 
+     XTI = 3 
+     EG = 1.11 
+     FC = 0.979


.MODEL TIP42C       PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f
+   Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24
+   Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5
+   Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33
+   Xtf=5.982 Vtf=10 Rb=.1)


.SUBCKT OP295    1  2  99 50 20
*
* INPUT STAGE
*
I1   99   4    2E-6
R1   1    6    5E3
R2   2    5    5E3
CIN  1    2    2E-12
IOS  1    2    0.5E-9
D1   5    3    DZ
D2   6    3    DZ
EOS  7    6    POLY(1) (31,39) 30E-6 0.024
Q1   8    5    4   QP
Q2   9    7    4   QP
R3   8    50   25.8E3
R4   9    50   25.8E3
*
* GAIN STAGE
*
R7   10   98   270E6
G1   98   10   POLY(1) (9,8) -4.26712E-9 27.8E-6
EREF 98   0    (39,0) 1
R5   99   39   100E3
R6   39   50   100E3
*
* COMMON MODE STAGE
*
ECM 30 98 POLY(2) (1,39) (2,39) 0 0.5 0.5
R12 30 31 1E6
R13 31 98 100
*
* OUTPUT STAGE
*
I2   18   50   1.59E-6
V2   99   12   DC 2.2763
Q4   10   14   50   QNA  1.0
R11  14   50   33
M3   15   10   13   13   MN  L=9E-6 W=102E-6 AD=15E-10 AS=15E-10
M4   13   10   50   50   MN  L=9E-6 W=50E-6 AD=75E-11 AS=75E-11
D8   10   22   DX
V3   22   50   DC 6
M2   20   10   14   14   MN  L=9E-6 W=2000E-6 AD=30E-9 AS=30E-9
Q5   17   17   99   QPA  1.0
Q6   18   17   99   QPA  4.0
R8   18   99   2.2E6
Q7   18   19   99   QPA  1.0
R9   99   19   8
C2   18   99   20E-12
M6   15   12   17   99   MP  L=9E-6 W=27E-6 AD=405E-12 AS=405E-12
M1   20   18   19   99   MP  L=9E-6 W=2000E-6 AD=30E-9 AS=30E-9
D4   21   18   DX
V4   99   21   DC 6
R10  10   11   6E3
C3   11   20   50E-12
.MODEL QNA NPN(IS=1.19E-16 BF=253 NF=0.99 VAF=193 IKF=2.76E-3
+ ISE=2.57E-13 NE=5 BR=0.4 NR=0.988 VAR=15 IKR=1.465E-4
+ ISC=6.9E-16 NC=0.99 RB=2.0E3 IRB=7.73E-6 RBM=132.8 RE=4 RC=209
+ CJE=2.1E-13 VJE=0.573 MJE=0.364 FC=0.5 CJC=1.64E-13 VJC=0.534 MJC=0.5
+ CJS=1.37E-12 VJS=0.59 MJS=0.5 TF=0.43E-9 PTF=30)
.MODEL QPA PNP(IS=5.21E-17 BF=131 NF=0.99 VAF=62 IKF=8.35E-4
+ ISE=1.09E-14 NE=2.61 BR=0.5 NR=0.984 VAR=15 IKR=3.96E-5
+ ISC=7.58E-16 NC=0.985 RB=1.52E3 IRB=1.67E-5 RBM=368.5 RE=6.31 RC=354.4
+ CJE=1.1E-13 VJE=0.745 MJE=0.33 FC=0.5 CJC=2.37E-13 VJC=0.762 MJC=0.4
+ CJS=7.11E-13 VJS=0.45 MJS=0.412 TF=1.0E-9 PTF=30) 
.MODEL MN NMOS(LEVEL=3 VTO=1.3 RS=0.3 RD=0.3 
+ TOX=8.5E-8 LD=1.48E-6 NSUB=1.53E16 UO=650 DELTA=10 VMAX=2E5
+ XJ=1.75E-6 KAPPA=0.8 ETA=0.066 THETA=0.01 TPG=1 CJ=2.9E-4 PB=0.837
+ MJ=0.407 CJSW=0.5E-9 MJSW=0.33)
.MODEL MP PMOS(LEVEL=3 VTO=-1.1 RS=0.7 RD=0.7 
+ TOX=9.5E-8 LD=1.4E-6 NSUB=2.4E15 UO=650 DELTA=5.6 VMAX=1E5
+ XJ=1.75E-6 KAPPA=1.7 ETA=0.71 THETA=5.9E-3 TPG=-1 CJ=1.55E-4 PB=0.56
+ MJ=0.442 CJSW=0.4E-9 MJSW=0.33)
.MODEL DX D(IS=1E-15)
.MODEL DZ D(IS=1E-15, BV=7)
.MODEL QP PNP(BF=125)
.ENDS


.SUBCKT LM358       1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            2mV
*Wide supply range =       +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8               
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS